US07129238B2
(RS)-(4-Acetylamino-phenyl)-methoxy-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-2-(4-acetylamino-phenyl)-N-(4-cyano-benzyl)-2-methoxy-acetamide. Off-white, amorphous solid. MS 338.3([M+H]+)

reactant | (RS)-(4-Acetylamino-phenyl)-methoxy-acetic acid | C(C)(=O)NC1=CC=C(C=C1)C(C(=O)O)OC | C11H13NO4
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-2-(4-acetylamino-phenyl)-N-(4-cyano-benzyl)-2-methoxy-acetamide | C(C)(=O)NC1=CC=C(C=C1)C(C(=O)NCC1=CC=C(C=C1)C#N)OC | C19H19N3O3
